US04335122
11-Chloro-6,11-dihydrodibenz[b,e]oxepin (32.69 g; 0.14 mole) is dissolved in dry benzene (300 ml) and placed under a dry nitrogen atmosphere. To this solution is added in one portion, CuCN (32.04 g; 0.35 mole). The reaction is heated to reflux for 31/2 hours and filtered while hot. After washing the salts with benzene, the filtrate is removed in vacuo to give a solid. This solid is triturated several times with isopropyl ether and finally hexane to give a solid (92%) of 11-cyano-6,11-dihydrodibenz[b,e]oxepin m.p. 65°-66.5° C.

reactant | 11-Chloro-6,11-dihydrodibenz[b,e]oxepin | 0.14 mole, 32.69 g | ClC1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C14H11ClO
reactant | CuCN | 0.35 mole, 32.04 g | C(#N)[Cu]
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 11-cyano-6,11-dihydrodibenz[b,e]oxepin | 92% | C(#N)C1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C15H11NO
